* C:\Users\joela\repos\projekt-am\pwm-tuning.asc
* Generated by LTspice 24.1.9 for Windows.
X§M1 N001 N002 N006 BS250
Q1 N002 N005 0 0 2N2222
R1 N002 N006 1k
V1 N006 0 9V
V2 N004 0 PULSE(0 5 0 1n 1n {DutyCycle} 100u)
R2 N003 N001 10k
C1 out 0 470nF
R4 N005 N004 10k
X§M2 N001 N002 0 2N7000
C2 N003 0 470nF
R3 out N003 10k
C3 0 NC_01 100n
.model NPN NPN
.model PNP PNP
.lib C:\Users\joela\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0.4
.inc 2N7000.onsemi.lib
.inc BS250.philips.lib
.meas TRAN rippel PP V(out) FROM 180ms TO 230ms
.meas TRAN medel AVG V(out) FROM 180ms TO 230ms
.param ideal=4.5
.meas TRAN diff PARAM medel-ideal
.param DutyCycle=50u
.backanno
.end
